US07521461B2
Methyl 2-{[4-(2-hydroxyethyl)phenoxy]methyl}benzoate (1.2 g, 4.19 mmol) was dissolved in dichloromethane (20 ml) and the solution was cooled to −20° C. Triethylamine (0.64 g, 6.29 mmol) was added dropwise, and then methylsulfonyl chloride (0.53 g, 4.61 mmol) was added dropwise. The ice bath was removed and the mixture was stirred at room temperature for one hour. Diethyl ether (5 ml) was added and the precipitate was filtered off. The organic phase was washed with 2 portions of brine, dried (MgSO4) and the solvent was removed by evaporation. The crude was purified by preparative HPLC (starting with acetonitrile/buffer 60/40 and then the acetonitrile concentration was increased to 100%, the buffer was a mixture of acetonitrile/water 10/90 and ammonium acetate (0.1 M, column KR-100-7-C8, 50 mm×250 mm, flow 40 ml/min). The product containing fractions were pooled and the acetonitrile was removed by evaporation. EtOAc (10 ml) was added and the organic phase was washed with two portions of brine and dried (MgSO4). This gave 0.703 g of methyl 2-[(4-{2-[(methylsulfonyl)oxy]ethyl}phenoxy)-methyl]benzoate (yield 46%).

reactant | Methyl 2-{[4-(2-hydroxyethyl)phenoxy]methyl}benzoate | 4.19 mmol, 1.2 g | OCCC1=CC=C(OCC2=C(C(=O)OC)C=CC=C2)C=C1 | C17H18O4
reactant | Triethylamine | 6.29 mmol, 0.64 g | C(C)N(CC)CC | C6H15N
reactant | methylsulfonyl chloride | 4.61 mmol, 0.53 g | CS(=O)(=O)Cl | CH3ClO2S
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
product | methyl 2-[(4-{2-[(methylsulfonyl)oxy]ethyl}phenoxy)-methyl]benzoate | 0.703 g, yield 46% | CS(=O)(=O)OCCC1=CC=C(OCC2=C(C(=O)OC)C=CC=C2)C=C1 | C18H20O6S
